US05968819
A solution of 2-chloro-6-methoxy-4-phenylamino-quinazoline (1.15 g) and N-methyl-(4-aminophenyl)-methanesulfonamide (prepared as described in Tetrahedron Letters 1992, 33, 8011) (0.89 g) in 5 ml of isopentylalcohol is stirred under nitrogen at 180° C. for 20 min in a sealed vessel. The warm reaction mixture is diluted with methanol and the hydrochloride salt, which is crystallizing on cooling, is filtered off. The crude product is redissolved in ethylacetate and aqueous sodium carbonate solution and extracted with ethylacetate. The organic extracts are dried and evaporated and the solid residue is titurated with diethylether to give N-methyl-[4-(6-methoxy-4-phenylamino-quinazolin-2-ylamino)-phenyl]-methanesulfonamide as light yellow crystals melting at 212-215° C.; (Rf (A2) 0.16. Recrystallisation from methanolic hydrogen chloride and diethylether yields N-methyl-[4-(6-methoxy-4-phenylamino-quinazolin-2-ylamino)-phenyl]-methanesulfonamide hydrochloride as light yellow crystals melting at 264-268° C.; Rf (A2) 0.16, FAB-MS: (M+H)+ =450. Analytical data: C23H23N5O3S+HCl.

reactant | 2-chloro-6-methoxy-4-phenylamino-quinazoline | 1.15 g | ClC1=NC2=CC=C(C=C2C(=N1)NC1=CC=CC=C1)OC | C15H12ClN3O
reactant | N-methyl-(4-aminophenyl)-methanesulfonamide | 0.89 g | CNS(=O)(=O)CC1=CC=C(C=C1)N | C8H12N2O2S
solvent | isopentylalcohol | 5 ml | C(CC(C)C)O | C5H12O
solvent | methanol | CO | CH4O
product | N-methyl-[4-(6-methoxy-4-phenylamino-quinazolin-2-ylamino)-phenyl]-methanesulfonamide | CNS(=O)(=O)CC1=CC=C(C=C1)NC1=NC2=CC=C(C=C2C(=N1)NC1=CC=CC=C1)OC | C23H23N5O3S
